Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Feeling really low"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old senior at ___, with no 
significant medical history and no past psychiatric diagnoses, 
with a history of cutting in early high school, who presented to 
the ___ ED via EMS in the setting of calling a suicide 
prevention hotline having reported worsening depressive symptoms 
in the past months with 1 day of suicidal ideation with multiple 
plans.
. 
For a full history documented by the ED consult service, please 
see notes written by Dr. ___ Dr. ___ ___. 
. 
Patient states that she has intermittent mild depressed mood and 
"inner torment" since her young teen years. Describes a history 
of cutting for while in middle and high school, which ended 
after a traumatizing experience in which her mother discovered 
her cutting, yelled at her, and exposed her cuts to her father, 
at which her father scoffed and walked away. 
. 
This most recent episode of depressed mood leading to her 
presentation began while she was studying abroad for six months 
in ___, ___. She describes several psychosocial 
stressors during her study abroad including difficulties at her 
internship and with her boss, trouble making friends, and 
strained relationship with her ex-boyfriend. She says her 
ex-boyfriend was regularly threatening to break up with her 
while she was abroad. She says she began having difficulty 
completing her assignments, noting decreased motivation, and was 
having to request extensions. Despite this she describes her 
work as sub-par. She says during this time, she was frequently, 
"counting
down the days" or "counting down the hours" to get through life. 

. 
The patient returned to ___ in early ___ and expected that 
she would feel better. She describes attempts at being social 
and doing activities, but says nothing brought her any pleasure. 
For the past several weeks, she also describes alternating 
hypersomnia and insomnia and decreased appetite, noting that she 
has lost weight. 
. 
A week ago, she broke up with her boyfriend. He contacted her to 
set up a time to see each other since the break up, but he 
ultimately rescinded the invitation which was somewhat 
disappointing for her. Two days ago, her roommate, who was a 
moved out of their apartment, and she began to feel "truly
alone." On ___, the patient reports that through the day she 
became filled with despair noting that, "the fact that I wasn't 
eating or sleeping, I felt like I was dying" and had "the 
persistent thought that I wouldn't make it to tomorrow." She 
considered calling friends but did not want to burden them. She 
attempted to go on a suicide hotline chat, but while waiting ___ 
hours for the chat, tried to come up with a plan to kill 
herself. She was going to end the chat and decided to call the 
suicide hotline, who referred her to EMS.
. 
Now, she feels "mixed" about her hospitalization, saying, "it 
would've been easier if I'd had the guts to just end it".
. 
Psych ROS: 
- Endorses: As per HPI
- Denies: Anxiety, Mania, psychotic sx, HI
General ROS: All systems reviewed and were negative.
. 
ED Course:
-Per nursing report in the ED, no behavioral issues
-Medication administrations in the ED: 
 --___ 09:32 Lorazepam PO 0.5 mg 

 
Past Medical History:
Past psychiatric history:
- Hospitalizations: None
- Current treaters and treatment: 
 --Therapist: Dr. ___ @ ___ on ___ -- Psychiatrist: intake this ___, Dr. ___ @ 
___ on ___
- Medication and ECT trials: None
- Self-injury: Endorses "superficial cutting" on the arm for a 
few years in early middle/high school
- Harm to others: Denies history of violence 
- Access to weapons: Denies 

Past medical history: None

 
Social History:
Personal and Social History:
- Born and raised in ___
- Only child, grew with mother (___) and father (works in 
___)
-Describes mother as "___ mom", mother used to log in to 
patient's facebook account and read messages
- Describes herself as high achieving, academically oriented 
Attends ___ where she studies ___. 
- Never married, no children
- Denies physical, sexual abuse
- Denies access to guns, denies legal history
.
Substance use history:
- Alcohol: ___ drinks/wk, ~5 "black outs" ever
- Tobacco: last smoked 5 months ago, smoked for a few months, up 
to 1 cigarette/weekend
- Marijuana: last use ___ year ago, duration of 2 months
- Other illicit drug use: denies

 
Family History:
Family psychiatric history:
- Diagnoses: no known formal diagnoses, patient stated "mental 
health is taboo"
- Suicide Attempts: Mother, ___ Grandmother, unsure of 
details. Denies completed suicides in family. 

 
Physical Exam:
Vitals: 1549 Temp: 98.5 PO BP: 97/62 HR: 51 O2 sat: 100% 

General: Young female in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Negative.
Cognition
 --Wakefulness/alertness: Awake and alert
 --Attention: Serial 7's from 100 to 58, with 1 error corrected
with prompting
 --Orientation: Oriented to person, time, place, situation
 --Executive function (go-no go, Luria, trails, FAS): Not tested
 --Memory: ___ registration, ___ recall after 5 ___
grossly intact
 --Fund of knowledge: favorite ___ names last
two presidents
 --___: $1.75 = "7" quarters
 --Abstraction: apple+orange="fruit" watch+ruler="numbers"
bike+train="transportation"; grass is always greener="things 
seem
better when they're not yours"
 --Visuospatial: Not assessed
 --Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

-Mental Status:
 --Appearance: young Asian woman, appearing her stated age, with
shoulder length black hair, wearing hospital gown, in no 
apparent
distress
 --Behavior: Making intermittent eye contact, often looking 
down,
no psychomotor agitation or retardation
 --Attitude: Cooperative with interview and easily engaged
 --Mood: "really low"
 --Affect: Mood-congruent; constricted/flat at times with
isolation of affect with intermittent episodes of tearfulness
 --Speech: Normal rate, and tone, soft volume
 --Thought process: Linear, organized, coherent, no loose
associations
 --Thought Content:
   Safety: Denies SI/HI at this time
   Delusions: No evidence of paranoia, etc. 
   Obsessions/Compulsions: No evidence based on current 
encounter
   Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 Insight: fair
 Judgment: poor

 
Pertinent Results:
___ 01:15AM URINE  UCG-NEG
___ 01:15AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:00AM   GLUCOSE-100 UREA N-10 CREAT-1.0 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-24 ANION GAP-11
___ 01:00AM   estGFR-Using this
___ 01:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:00AM   WBC-8.6 RBC-5.35* HGB-11.1* HCT-36.8 MCV-69* 
MCH-20.7* MCHC-30.2* RDW-16.4* RDWSD-39.3
___ 01:00AM   NEUTS-59.8 ___ MONOS-7.0 EOS-1.8 
BASOS-0.5 IM ___ AbsNeut-5.13 AbsLymp-2.60 AbsMono-0.60 
AbsEos-0.15 AbsBaso-0.04
___ 01:00AM   PLT COUNT-181
 
Brief Hospital Course:
This is a ___ year old senior at ___, with no 
significant medical history and no past psychiatric diagnoses, 
with a history of cutting in early high school, who presented to 
the ___ ED via EMS in the setting of calling a suicide 
prevention hotline having reported worsening depressive symptoms 
in the past months with 1 day of suicidal ideation with multiple 
plans.
. 
Patient endorses several symptoms of depression including recent 
difficulty sleeping, anhedonia, feelings of worthlessness and 
hopelessness, difficulty concentrating, decreased motivation, 
low appetite/weight loss, and one day of preoccupation with 
thoughts of suicide. She denies history of hypomania/mania and 
psychosis. MSE notable for intermittent eye contact, isolation 
of affect
while discussing symptoms of depression, with intermittent 
tearfulness; notably linear and goal oriented thought process. 
.
The patient's presentation is most concerning for a depressive 
disorder, likely Major Depressive Disorder. Other diagnostic 
considerations would include adjustment disorder with depressed 
mood or bipolar disorder (reassuringly, no prior over manic
symptoms or family history). Given her reports of longstanding 
affective dysregulation, self harming behavior, and unstable 
self image, underlying characterological disorder would be on 
differential. Due suicidal ideation with plan, patient meets 
criteria for inpatient hospitalization for stabilization,
medication re-establishment/management, diagnostic 
clarification, and coordination with outpatient providers.
.
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, she signed a CV, which was accepted. Patient 
maintained her safety throughout her hospitalization on 15 
minute checks and did not require physical or chemical 
restraints. 
. 
#. Depression: as noted above
- Patient was encouraged to attend groups and maintained good 
behavioral control in the milieu. She was compliant in meeting 
with her treatment team and participated appropriately in her 
care. 
- After discussion of the risks and benefits, patient was 
started on Zoloft 25 mg po daily with perhaps some minor nausea 
that resolved by time of discharge. Zoloft was increased to 50 
mg po daily by time of discharge. For anxiety, after discussion 
of the risks and benefits, patient was started on Vistaril with 
improvement in sleep. 
- In the setting of the stabilizing environment of the milieu 
and initiation of the above medications, patient's depression 
improved rapidly and by time of discharge she was consistently 
denying suicidal ideation and thoughts of self harm. Her affect 
was also noted to brighten during this hospitalization. Prior to 
discharge, with the patient's permission, she and ___ 
___ contacted the patient's parents, who were supportive of 
her care and planned on coming up to see their daughter later 
today. The parents were comfortable with the discharge plan of 
referral to ___ and following up with outpatient providers. 
.
#. Medical: no active medical issues during this 
hospitalization. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO BID:PRN anxiety/insomnia 
RX *hydroxyzine HCl 25 mg 1 tab by mouth twice a day Disp #*30 
Tablet Refills:*0 
2.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe, without psychotic  
features

 
Discharge Condition:
98.4     101/68   73   18   99%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair   

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___